US08476300B2
To a round bottom flask, add 1-(2-(4-(2-bromo-6-methoxy-3,4-dihydronaphthalen-1-yloxy)phenoxy)ethyl)piperidine (6.7 g, 6.6 mmol) and acetonitrile (50 mL). Stir the mixture at 25° C. for 5 min. Add 2,3-dichloro-5,6-dicyanobenzoquinone (DDQ) (3.2 g, 14.1 mmol) slowly to the reaction mixture. Heat the mixture to 80° C. and stir at the temperature for 14 hours. Cool the reaction mixture to room temperature and quench with ice-water. Extract the mixture with ethyl acetate three times and discard the aqueous phase. Dry the combined organic layers (MgSO4), filter, and concentrate to dryness. Purify by flash chromatography to give 1-(2-(4-(2-bromo-6-methoxynaphthalen-1-yloxy)phenoxy)ethyl)piperidine as a brown solid (817 mg). 1HNMR (d-DMSO, 300 MHZ): 7.68 (3H, m), 7.43 (1H, s), 7.15 (1H, m), 6.97 (2H, d), 6.72 (2H, d), 4.26 (2H, s), 3.85 (3H, s), 3.48 (4H, m), 2.96 (2H, m), 1.70 (6H, m).

reactant | 1-(2-(4-(2-bromo-6-methoxy-3,4-dihydronaphthalen-1-yloxy)phenoxy)ethyl)piperidine | 6.6 mmol, 6.7 g | BrC1=C(C2=CC=C(C=C2CC1)OC)OC1=CC=C(OCCN2CCCCC2)C=C1 | C24H28BrNO3
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | 14.1 mmol, 3.2 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-(2-(4-(2-bromo-6-methoxynaphthalen-1-yloxy)phenoxy)ethyl)piperidine | 817 mg | BrC1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(OCCN2CCCCC2)C=C1 | C24H26BrNO3
